US06258829B1
Ethyl 9-chloro-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate
Ethyl 9-hydroxy-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate (3.92 g, 15.7mmol) was dissolved in chloroform (12.0 ml) to which was subsequently added dropwise thionyl chloride (4.4 ml) at −11° C. This was stirred at room temperature for 21 hours, and the reaction solution was poured into ice water, adjusted to pH 8 with 2 N sodium hydroxide aqueous solution and then extracted with chloroform. The thus obtained organic layer was washed with water and saturated brine in that order and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (ether:hexane=1:2) to obtain the title compound (3.35 g, 79.8%) as pale yellow oil.

reactant | Ethyl 9-hydroxy-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate | 15.7mmol, 3.92 g | OC1CCCCC=2C1=NC(=C(C2)C(=O)OCC)C | C14H19NO3
reactant | thionyl chloride | 4.4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | chloroform | 12.0 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 9-chloro-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate | 3.35 g, 79.8% | ClC1CCCCC=2C1=NC(=C(C2)C(=O)OCC)C | C14H18ClNO2
